US07384949B2
2-Chloro-4-(5-chloro-2-thienyl)thieno[3,2-d]pyrimidine
A solution of Pd(OAc)2 (12 mg, 5 mol %) and PPh3 (52 mg, 20 mol %) in THF (2 mL) was stirred for 5 min, treated dropwise with a solution of 2,4-dichlorothieno[3,2-d]pyrimidine (205 mg, 1 mmol) in THF (1 mL), stirred for 5 min, treated with 5-chlorothiophene-2-boronic acid (244 mg, 1.5 mmol) then saturated aqueous NaHCO3 (1 mL) refluxed for 4 h, cooled, diluted with H2O and filtered to give the title compound (268 mg, 94%) as a grey solid; NMR δH (400 MHz, CDCl3) 7.10 (1H, d, J 4.0 Hz), 7.55 (1H, d, J 5.5 Hz), 7.85 (1H, d, J 4.5 Hz) and 8.08 (1H, d, J 5.5 Hz)

reactant | PPh3 | 52 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2,4-dichlorothieno[3,2-d]pyrimidine | 1 mmol, 205 mg | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | 5-chlorothiophene-2-boronic acid | 1.5 mmol, 244 mg | ClC1=CC=C(S1)B(O)O | C4H4BClO2S
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
catalyst | Pd(OAc)2 | 12 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-Chloro-4-(5-chloro-2-thienyl)thieno[3,2-d]pyrimidine | 268 mg, 94% | ClC=1N=C(C2=C(N1)C=CS2)C=2SC(=CC2)Cl | C10H4Cl2N2S2
